US06566377B2
[2-(4-Isoxazol-4-yl-phenoxy)-ethyl]-Carbamic Acid Benzyl Ester
A round-bottomed flask was charged with 4-isoxazole-4-yl-phenol (570 mg, 3.54 mmol), and 12 ml of toluene, triphenylphosphine (1.39 g, 5.30 mmol), and benzyl N-(2-hydroxyethyl) carbamate (1.04 g, 5.30 mmol) were added. The solution was cooled to about 0° C. and 1,1′-(azodicarbonyl)-dipiperidine (1.34 g, 5.30 mmol) was added. The mixture was allowed to stir for about ten minutes at about 0° C., and the solution was then allowed to warm to room temperature. An additional 12 ml of toluene and 12 ml of tetrahydrofuran were added to the viscous solution. The reaction mixture was stirred for about twenty-four hours, and then the precipitated solids were filtered off and washed with a minimum volume of 1:1 toluene/tetrahydrofuran. The filtrate was concentrated to afford the crude product which was purified by column chromatography (30% ethyl acetate/hexanes) to afford the desired product as a white solid (1.06 g, 88% yield).

reactant | 4-isoxazole-4-yl-phenol | 3.54 mmol, 570 mg | O1N=CC(=C1)C1=CC=C(C=C1)O | C9H7NO2
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
reactant | triphenylphosphine | 5.30 mmol, 1.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 5.30 mmol, 1.34 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
reactant | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | [2-(4-Isoxazol-4-yl-phenoxy)-ethyl]-Carbamic Acid Benzyl Ester | 1.06 g, 88% yield | C(C1=CC=CC=C1)OC(NCCOC1=CC=C(C=C1)C=1C=NOC1)=O | C19H18N2O4
